US04013643
A solution comprised of 14 parts of 1,2-diphenyl-2-propen-1-ol and 24.3 parts of methylene chloride is added dropwise to a solution comprised of 12.6 parts of phosphorous trichloride and 30.4 parts of methylene chloride at a temperature of -15°. That reaction mixture is allowed to warm to 0° over a 3 hour period. Then ice is added while stirring rapidly and the oil which separates is extracted with ethyl ether. The ethereal extracts are washed with water and then with 10% potassium bicarbonate solution. After drying over anhydrous sodium sulfate, the solution is reduced to an oil by evaporating the solvent under a nitrogen stream and reduced pressure to yield pure 2,3-diphenylallyl chloride.

reactant | 1,2-diphenyl-2-propen-1-ol | C1(=CC=CC=C1)C(C(=C)C1=CC=CC=C1)O | C15H14O
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,3-diphenylallyl chloride | C1(=CC=CC=C1)C(CCl)=CC1=CC=CC=C1 | C15H13Cl
